US04264500
A mixture of 247 g. of (6-chloro-2-carbazolyl)-methyl-malonic acid diethyl ester, 1.9 liters of glacial acetic acid and 1.9 liters of 6 N hydrochloric acid is heated under reflux overnight with stirring and the resulting black solution is cooled to room temperature. The solid formed is removed by filtration, washed with acetic acid/water (1:1) and water and then dried. The 192 g. of crude 6-chloro-α-methyl-carbazole-2-acetic acid obtained are dissolved in 1.2 liters of 1 N potassium hydroxide, the solution is extracted with four 300 ml. portions of diethyl ether and acidified by the addition of 100 ml. of concentrated hydrochloric acid while cooling in an ice-bath under nitrogen. The mixture is stirred for 15 minutes, the precipitated solid is removed by filtration, washed with water and dried. 167.7 G. of product are obtained. The last purification is carried out by crystallization from 4.7 liters of boiling 1,2-dichloroethane with 8.0 g. of active carbon. The solution is cooled overnight, the crystals are removed by filtration, washed with dichloroethane and dried. There are obtained 103.8 g. (57.3% of theory) of almost white 6-chloro-α-methyl-carbazole-2-acetic acid having a melting point of 198.5°-201° C.

reactant | (6-chloro-2-carbazolyl)-methyl-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(C)C1=CC=2NC3=CC=C(C=C3C2C=C1)Cl)=O | C20H20ClNO4
reactant | hydrochloric acid | 6 N, 1.9 liters | Cl | ClH
solvent | acetic acid | 1.9 liters | C(C)(=O)O | C2H4O2
product | 6-chloro-α-methyl-carbazole-2-acetic acid | ClC=1C=C2C=3C=CC(=CC3NC2=CC1)C(C(=O)O)C | C15H12ClNO2
